US05766932
Suspend Boc-(L)-Chg-(L)-Pal-NH2 (1.27 g, 3.12 mmol) in methylene chloride (50 mL), and add chlorhydric acid (10 mL, 4M in dioxane). After 30 minutes, evaporate dioxane and methylene chloride, dissolve the solid in methanol and precipitate the product by addition of ether (200 mL) and filter to give H-(L)-Chg-(L)-Pal-NH2.2HCl (1.12 g, 95%).

reactant | Boc-(L)-Chg-(L)-Pal-NH2 | 3.12 mmol, 1.27 g | N([C@@H](C1CCCCC1)C(=O)N[C@@H](CC1=CC=CN=C1)C(=O)N)C(=O)OC(C)(C)C | C21H32N4O4
reactant | chlorhydric acid | 4M, 10 mL | Cl | ClH
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | H-(L)-Chg-(L)-Pal-NH2.2HCl | 1.12 g, 95% | N[C@@H](C1CCCCC1)C(=O)N[C@@H](CC1=CC=CN=C1)C(=O)N.Cl.Cl | InChI=1S/C16H24N4O2.2ClH/c17-14(12-6-2-1-3-7-12)16(22)20-13(15(18)21)9-11-5-4-8-19-10-11;;/h4-5,8,10,12-14H,1-3,6-7,9,17H2,(H2,18,21)(H,20,22);2*1H/t13-,14-;;/m0../s1
